************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: SMDFFHQX2
* View Name:     schematic
* Netlisted on:  Jun  4 07:50:47 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    SMDFFHQX2
* View Name:    schematic
************************************************************************

.SUBCKT SMDFFHQX2 CK D0 D1 Q S0 SE SI VDD VSS
*.PININFO CK:I D0:I D1:I S0:I SE:I SI:I VDD:I VSS:I Q:O
Mmn3 net510 D1 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn4 db S0 net510 VSS g45n1svt m=1 l=45n w=260n
Mmn2 db S0b net498 VSS g45n1svt m=1 l=45n w=260n
Mmn1 net498 D0 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn13 dbp SE net490 VSS g45n1svt m=1 l=45n w=260n
Mmn12 net490 SI VSS VSS g45n1svt m=1 l=45n w=260n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn50 net482 qbint VSS VSS g45n1svt m=1 l=45n w=205n
Mmn51 n30 CKb net482 VSS g45n1svt m=1 l=45n w=205n
Mmn35 net474 mout VSS VSS g45n1svt m=1 l=45n w=205n
Mmn36 n20 CKbb net474 VSS g45n1svt m=1 l=45n w=205n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n30 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn10 SEb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn0 S0b S0 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn11 db SEb dbp VSS g45n1svt m=1 l=45n w=260n
Mmn40 mout CKbb n30 VSS g45n1svt m=1 l=45n w=205n
Mmn25 dbp CKb n20 VSS g45n1svt m=1 l=45n w=205n
Mmn30 mout n20 VSS VSS g45n1svt m=1 l=45n w=205n
Mmn21 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmp3 net429 D1 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp4 db S0b net429 VDD g45p1svt m=1 l=45n w=390n
Mmp2 db S0 net425 VDD g45p1svt m=1 l=45n w=390n
Mmp1 net425 D0 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp13 dbp SEb net417 VDD g45p1svt m=1 l=45n w=390n
Mmp12 net417 SI VDD VDD g45p1svt m=1 l=45n w=390n
Mmp51 n30 CKbb net409 VDD g45p1svt m=1 l=45n w=310n
Mmp50 net409 qbint VDD VDD g45p1svt m=1 l=45n w=310n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp35 net393 mout VDD VDD g45p1svt m=1 l=45n w=310n
Mmp36 n20 CKb net393 VDD g45p1svt m=1 l=45n w=310n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp45 qbint n30 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp0 S0b S0 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp40 n30 CKb mout VDD g45p1svt m=1 l=45n w=310n
Mmp21 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp30 mout n20 VDD VDD g45p1svt m=1 l=45n w=310n
Mmp10 SEb SE VDD VDD g45p1svt m=1 l=45n w=215n
Mmp11 dbp SE db VDD g45p1svt m=1 l=45n w=390n
Mmp25 n20 CKbb dbp VDD g45p1svt m=1 l=45n w=310n
.ENDS

